US08039474B2
c) 8-Chloro-9-ethoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid benzyl ester
Cesium carbonate (6.32 g, 19.2 mmol) and ethyl bromoacetate (1.16 ml, 10.2 mmol) are added to a stirred solution of 8-chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid benzyl ester (2.17 g, 6.4 mmol) in dry DMF (20 ml). The reaction mixture is stirred at 60° C. for 3 h. The precipitate is filtered off and rinsed thoroughly with acetone. The filtrate is concentrated and the residue is purified by flash chromatography on silica gel (heptane/EtOAc 4:1) to afford pure title compound as a yellow solid (2.54 mg) in 93% yield. tR (LC-5) 1.14 min; ESI-MS (positive ion): m/z 426.16 [M+H]+ (calcd 425.91 for C24H24NO4Cl). 1H-NMR (CDCl3): 1.25 (t, J=7.0 Hz, 3H); 2.07 (m, 1H); 2.37 (m, 1H); 2.69 (m, 2H); 2.89 (m, 2H); 3.07 (dd, J=14.4, 4.4 Hz, 1H); 4.22 (q, J=7.3 Hz, 2H); 5.07 (d, J=18.2 Hz, 1H); 5.18 (s, 2H); 5.19 (d, J=18.5 Hz, 1H); 6.97 (t, J=7.9 Hz, 1H); 7.08 (dd, J=7.6, 0.9 Hz, 1H); 7.34 (m, 6H).

reactant | Cesium carbonate | 19.2 mmol, 6.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 10.2 mmol, 1.16 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 8-chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid benzyl ester | 6.4 mmol, 2.17 g | C(C1=CC=CC=C1)OC(=O)C1CCC=2NC3=C(C=CC=C3C2C1)Cl | C20H18ClNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 8-Chloro-9-ethoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid benzyl ester | 2.54 mg, 93% yield | C(C1=CC=CC=C1)OC(=O)C1CCC=2N(C3=C(C=CC=C3C2C1)Cl)CC(=O)OCC | C24H24ClNO4
